US06436912B1
A mixture of p-toluenesulfonic acid salt of Phe-Gly-OBzl (3.06 g), Boc-Gly-OH (1.10 g), N-hydroxysuccinimide (941 mg), N-methylmorpholine (0.725 ml), and N,N-dimethylformamide (40 ml) was cooled to 4° C., and added with N,N′-dicyclohexyl-carbodiimide (1.56 g). The mixture was allowed to react overnight at room temperature with stirring, and then evaporated to dryness under reduced pressure. The residue was purified by silica gel column chromatography (eluent: dichloromethane:methanol=98:2 solution) to give Boc-Gly-Phe-Gly-OBzl (1.93 g).

reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Phe-Gly-OBzl | 3.06 g | N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)OCC1=CC=CC=C1 | C18H20N2O3
reactant | Boc-Gly-OH | 1.10 g | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
reactant | N-hydroxysuccinimide | 941 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | N-methylmorpholine | 0.725 ml | CN1CCOCC1 | C5H11NO
reactant | N,N′-dicyclohexyl-carbodiimide | 1.56 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | Boc-Gly-Phe-Gly-OBzl | 1.93 g | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C25H31N3O6
